US04101548
Hydrolysis of ethyl 5-methyl-1,2,3-thiadiazole-4-carboxylate (D. L. Pain and R. Slack, J. Chem. Soc., 5166 (1965)) and subsequent treatment of the acid with oxalyl chloride according to the method of Example 3 provides 5-methyl-1,2,3-thiadiazole-4-carbonyl chloride.

reactant | ethyl 5-methyl-1,2,3-thiadiazole-4-carboxylate | CC1=C(N=NS1)C(=O)OCC | C6H8N2O2S
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | 5-methyl-1,2,3-thiadiazole-4-carbonyl chloride | CC1=C(N=NS1)C(=O)Cl | C4H3ClN2OS
